### PR TITLE
feat(LOG): prove `log_ge`

### LINKED ISSUE #765: [LOG]: Lower bound log(1+t) by t - t^2/2 for nonnegative t
## Description

Straightforward Taylor expansion

## Blueprint

[Sublemma 9.1.2](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#log_lower_1)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Miniproject.3A.20prove.20that.20li.28x.29.3DLi.28x.29.2Bli.282.29.20and.20li.282.29~.201.2E0451)

### PR DESCRIPTION
**Pull request by ajirving**
I updated the statement to match the blueprint by removing the variable s in the bound.

This was proved by @Aristotle-Harmonic with some golf from me.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

Closes #765

### CODE REVIEW

File: PrimeNumberTheoremAnd/SecondaryDefinitions.lean [hunk 1]
```diff
@@ -50,10 +50,26 @@ theorem log_le (t : ℝ) (ht : t > -1) : log (1 + t) ≤ t :=
...
   (discussion := 765)]
-theorem log_ge
-    (t s : ℝ) (ht : t ≥ 0) (hs : s > 0) :
-    t - t ^ 2 / (2 * s ^ 2) ≤ log (1 + t) := by
-    sorry
+theorem log_ge {t : ℝ} (ht : 0 ≤ t) :
+    t - t ^ 2 / 2 ≤ log (1 + t) := by
+  rcases ht.eq_or_lt with rfl|ht
+  · simp
+  -- Define the function $f(t) = \ln(1+t) - (t - t^2/2)$ and show that $f(t) \geq 0$ for $t \geq 0$.
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/SecondaryDefinitions.lean]: Could you please remove the comments from the proof body?

```suggestion
```

File: PrimeNumberTheoremAnd/SecondaryDefinitions.lean [hunk 2]
```diff
@@ -50,10 +50,26 @@ theorem log_le (t : ℝ) (ht : t > -1) : log (1 + t) ≤ t :=
...
+  set f : ℝ → ℝ := fun t => Real.log (1 + t) - (t - t^2 / 2)
+  have hf_deriv_pos : ∀ t > 0, 0 ≤ deriv f t := by
+    intro t ht
+    unfold f
+    norm_num [ add_comm, show t + 1 ≠ 0 by linarith ]
+    ring_nf
+    nlinarith [ inv_mul_cancel₀ ( by linarith : ( 1 + t ) ≠ 0 ) ]
+  -- Since $f$ is differentiable and its derivative is non-negative for $t > 0$, we can apply the Mean Value Theorem to $f$ on the interval $[0, t]$.
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/SecondaryDefinitions.lean]: Could you please remove the comment from the proof body? 


```suggestion
```

File: PrimeNumberTheoremAnd/SecondaryDefinitions.lean [hunk 3]
```diff
@@ -50,10 +50,26 @@ theorem log_le (t : ℝ) (ht : t > -1) : log (1 + t) ≤ t :=
...
+theorem log_ge {t : ℝ} (ht : 0 ≤ t) :
+    t - t ^ 2 / 2 ≤ log (1 + t) := by
+  rcases ht.eq_or_lt with rfl|ht
+  · simp
+  -- Define the function $f(t) = \ln(1+t) - (t - t^2/2)$ and show that $f(t) \geq 0$ for $t \geq 0$.
+  set f : ℝ → ℝ := fun t => Real.log (1 + t) - (t - t^2 / 2)
+  have hf_deriv_pos : ∀ t > 0, 0 ≤ deriv f t := by
+    intro t ht
+    unfold f
+    norm_num [ add_comm, show t + 1 ≠ 0 by linarith ]
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/SecondaryDefinitions.lean]: This can be compressed into a single line: 

```suggestion
    norm_num [f, add_comm, show t + 1 ≠ 0 by linarith]
```

File: PrimeNumberTheoremAnd/SecondaryDefinitions.lean [hunk 4]
```diff
@@ -50,10 +50,23 @@ theorem log_le (t : ℝ) (ht : t > -1) : log (1 + t) ≤ t :=
...
+    norm_num [f, add_comm, show t + 1 ≠ 0 by linarith]
+    ring_nf
+    nlinarith [ inv_mul_cancel₀ ( by linarith : ( 1 + t ) ≠ 0 ) ]
+  have h_mvt : ∃ c ∈ Set.Ioo 0 t, deriv f c = (f t - f 0) / (t - 0) := by
+    apply exists_deriv_eq_slope _ ht <;> unfold f
+    · exact fun x hx ↦ ContinuousAt.continuousWithinAt (by fun_prop (disch := grind))
+    · exact fun x hx ↦ DifferentiableAt.differentiableWithinAt (by fun_prop (disch := grind))
+  norm_num +zetaDelta at h_mvt
+  obtain ⟨ c, ⟨ hc₁, hc₂ ⟩, hc ⟩ := h_mvt
+  nlinarith [ hf_deriv_pos c hc₁, mul_div_cancel₀ ( Real.log ( 1 + t ) - ( t - t ^ 2 / 2 ) ) ( by linarith : t ≠ 0 ) ]
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/SecondaryDefinitions.lean]: Could you please clean up this proof as follows? 

```suggestion
theorem log_ge {t : ℝ} (ht : 0 ≤ t) : t - t ^ 2 / 2 ≤ log (1 + t) := by
  rcases ht.eq_or_lt with rfl | ht
  · simp
  let f : ℝ → ℝ := fun s ↦ log (1 + s) - (s - s ^ 2 / 2)
  have hf_deriv_pos : ∀ s > 0, 0 ≤ deriv f s := by
    intro s hs
    norm_num [f, add_comm, show s + 1 ≠ 0 by positivity]
    ring_nf
    nlinarith [inv_mul_cancel₀ (by positivity : (1 + s) ≠ 0)]
  have h_mvt : ∃ c ∈ Set.Ioo 0 t, deriv f c = (f t - f 0) / (t - 0) := by
    refine exists_deriv_eq_slope _ ht ?_ ?_  <;> intro x hx
    · exact ContinuousAt.continuousWithinAt (by fun_prop (disch := grind))
    · exact DifferentiableAt.differentiableWithinAt (by fun_prop (disch := grind))
  norm_num +zetaDelta at h_mvt
  obtain ⟨c, ⟨hc₁, hc₂⟩, hc⟩ := h_mvt
  nlinarith [hf_deriv_pos c hc₁, mul_div_cancel₀ (log (1 + t) - (t - t ^ 2 / 2)) (by positivity)]
```
